US07595324B2
4-(4-(mesityloxy)thieno[3,2-d]pyrimidin-2-ylamino)benzonitrile
To a solution of 2-chloro-4-(mesityloxy)thieno[3,2-d]pyrimidine (32.4 mg, 0.11 mmol), TFA (0.13 mL, 1.71 mmol) in TFE (0.7 mL) was added 4-aminobenzonitrile (100 mg, 0.88 mmol) in a sealed tube. The reaction was stirred at 90° C. for 15 h. Reaction mixture was diluted with ethyl acetate (5 mL) and washed with saturated NaHCO3 (3×10 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by prep HPLC afforded the product as a white solid (26.7 mg, 63%):

reactant | 2-chloro-4-(mesityloxy)thieno[3,2-d]pyrimidine | 0.11 mmol, 32.4 mg | ClC=1N=C(C2=C(N1)C=CS2)OC2=C(C=C(C=C2C)C)C | C15H13ClN2OS
reactant | TFA | 1.71 mmol, 0.13 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-aminobenzonitrile | 0.88 mmol, 100 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 4-(4-(mesityloxy)thieno[3,2-d]pyrimidin-2-ylamino)benzonitrile | 26.7 mg, 63% | C1(=C(C(=CC(=C1)C)C)OC=1C2=C(N=C(N1)NC1=CC=C(C#N)C=C1)C=CS2)C | C22H18N4OS
